US08247430B2
5-(1-methyl(4-1,2,5,6-tetrahydropyridyl))-3-(trifluoro-methyl)phenylamine
To a mixture of 4,4,5,5-tetramethyl-2-(1-methyl(4-1,2,5,6-tetrahydropyridyl))-1,3,2-dioxaborolane (1.0 g, 4.4 mmol), PdCl2pddf (0.16 g, 0.2 mmol) and K2CO3 (1.8 g, 13.2 mmol) and 3-amino-5-bromobenzotrifluoride (0.8 g, 3.3 mmol) in DMF (25 mL) was heated at 80° C. for 16 h. The resulting mixture was diluted with EtOAc, washed with H2O, dried over Na2SO4, and concentrated. The residue was purified by SiO2 chromatography to give the title intermediate. MS (ES+): 257 (M+H)+. Calc'd C13H15F3N2—256.3.

reactant | 4,4,5,5-tetramethyl-2-(1-methyl(4-1,2,5,6-tetrahydropyridyl))-1,3,2-dioxaborolane | 4.4 mmol, 1.0 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C)C | C12H22BNO2
reactant | K2CO3 | 13.2 mmol, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-amino-5-bromobenzotrifluoride | 3.3 mmol, 0.8 g | NC=1C=C(C=C(C1)Br)C(F)(F)F | C7H5BrF3N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(1-methyl(4-1,2,5,6-tetrahydropyridyl))-3-(trifluoro-methyl)phenylamine | CN1CC=C(CC1)C=1C=C(C=C(C1)N)C(F)(F)F | C13H15F3N2
